2196-01-30 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2196-1-29**] 10:00 PM
    Overnight events:
   Initially continued to be tachycardic in low 100s. Started on schedule
   of lopressor 15mg IV q4  with HR mostly in 90s in afib.
   AM CXR read as RLL collapse, stable Left pleural effusion, no PNA or
   CHF. Planned for CT chest ? etiology with DD lung collapse including
   aspiration, mucous plugging, pna, malignancy. Started to desat around
   5pm to mid 80s on 4% NC, improved on 40% shovel mask. ABG obtained at
   that time showed 7.42/51/51/34 from 7.35/63/72/36, more consistent with
   venous gas. Started on abx coverage for hospital acquired PNA with
   aspiration coverage with vanc/cefepime/flagyll. Continued to have low
   grade temp 99.8 then spiked temp around 9pm to 102, defervesced with
   tylenol and congested cough but unable to clear secretions for sputum
   cx. Continued to congestion on lung exam, although did not appear very
   uncomfortable, not using accessory muscles. 02 sat's improved on shovel
   mask/suctioning, although intermittently desaturated, with multiple neb
   treatments, uptitration to 100% shovel mask by respiratory therapy with
   sat's in mid to low 90s. Repeat ABG was deferred given no contribution
   to management, management guided by clinical status. Initially held
   lasix drip but UOP started to drop off and BP's were in the one teens,
   although 02 sats at this point stable in the low 90s. Restarted lasix
   drip to run negative.
   8 beat run of NSVT at 3:30am.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-1-27**] 09:11 AM
   Acyclovir - [**2196-1-27**] 04:42 PM
   Vancomycin - [**2196-1-29**] 06:40 PM
   Cefipime - [**2196-1-29**] 08:00 PM
   Metronidazole - [**2196-1-30**] 05:57 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-29**] 11:00 AM
   Famotidine (Pepcid) - [**2196-1-29**] 08:28 PM
   Metoprolol - [**2196-1-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (85 - 128) bpm
   BP: 103/51(65) {96/42(58) - 129/66(80)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 80.1 kg
             Total In:
                                                                    628 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    270 mL
   Urine:
                                                                  1,190 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.42/51/51/31/6
   PaO2 / FiO2: 73
   Physical Examination
   Neuro: AO to Person, time, disoriented to place
   CVS:irregularly irregular, SEM
   Lung: improved, less ronchorous, less wheeze, JVP ~ 7cm
   Abd: +bs, soft, nt, nd
   Ext : WWP, 1+ edema below knee, mid shin bandages in place.
   warm extremities, weak peripheral pulses
   Labs / Radiology
   430 K/uL
   8.8 g/dL
   87 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   30.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-1-27**]  04:27 AM
                             [**2196-1-29**]  07:42 PM
                             [**2196-1-29**]  09:22 PM
                             [**2196-1-30**]  05:40 AM
   WBC
   11.7
   9.9
   Hct
   34.7
   30.6
   Plt
   500
   430
   Cr
   0.8
   1.0
   TropT
   0.02
   TCO2
   34
   Glucose
   107
   87
   Other labs: PT / PTT / INR:28.2/41.5/2.8, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**5-13**], Alk Phos / T Bili:62/0.2, Amylase
   / Lipase:/47, Differential-Neuts:80.4 %, Lymph:10.9 %, Mono:6.6 %,
   Eos:2.0 %, Fibrinogen:499 mg/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   ASSESSMENT AND PLAN
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colonic adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures on [**2196-1-26**] who had MS
   change first noted following MRI. Pt was lying flat for some time
   during MRI following which she was noted to have MS change, and was
   subsequently febrile to 101 which altogether suggests an aspiration
   event. She subsequently had a CXR which showed RLL lung collapse which
   may have been secondary to mucous plugging following aspiration, vs [**12-29**]
   hospital acquired pneumonia, less likely malignancy and on CXR does not
   look like pneumothorax. Her Afib going into RVR appears to have been
   precipirated by missing some metoprolol doses while she was NPO with ?
   aspiration, and this could have  caused her to flash and at the same
   time her lasix was being held in order to allow for cerebral perfusion,
   but CXR was not consistent with acute pulm edema and her peripheral
   edema was more consistent with chronic CHF.
   .
   Afib: Pt in Afib with RVR on arrival. Had been NPO for some time on the
   floor, had been on p.o metoprolol on [**1-27**] am then changed to IV at 5-10
   Q4 on 3/3pm but didn't get any on [**1-28**] although written, ? [**12-29**] low SBPs.
   On arrival to floor received IV metoprolol 2.5 with improvement rate to
   80's from 128.
   Continue metoprolol IV 15mg Q4. Down titrate if HR allows, switch to
   p.o if pt becomes more alert, able to take p.o
   -am EKG.
   .
   Respiratory distress: ? asp/HAP
   # Flash Pulmonary Edema: CAD s/p CABG 86F with CAD s/p CABG [**10/2189**]
   (SVG-OM, LIMA-LAD)
   -Given AS pt very sensitive to fluid shifts, had been lying down for a
   long time at MRI and lasix was being held on floor to prevent cerebral
   hypoperfusion with subsequent flash.
   On arrival to ICU received IV lasix bolus 60mg IV and started on lasix
   drip.
   Continue lasix drip, titrating based on clinical appearance/respiratory
   status.
   -On digoxin chronically, typically not preferred in setting of normal
   EF, will continue for now. Dig level 0.9 (range 0.9-2)
   -repeat CXR in am.
   -trend fever curve
   .
   #AS: AS s/p valvuloplasty [**11-3**].Severe AS on Echo [**2196-1-27**] with valve
   area not quantified but LVOT of 12 noted which was not noted on Echo of
   [**12-29**] but valve area of 0.8. EF stable at 60%. AS known critical, unclear
   if worsened AS since [**Month (only) **] as valve area not quantified but known to be
   critical. Pt poor surgical candidate thus had not received AVR.
   -Consideration being given for minimally invasive percutaneous valve
   replacement.
   -f/u with ICU fellow/Dr [**Last Name (STitle) 8906**]
   [**Name (STitle) **] diuresis given evolving clinical picture more consistent with
   pneumonia/pneumonitis.
   .
   # MS Change: Likely multifactorial related to benzodiazepine pre MRI
   although only received 0.5mg, C02 retention [**12-29**] fatigue with mildly
   elevated C02 of 63 on ABG, and low CO with CHF.  MS improved this am
   Did have [**Doctor Last Name 11764**] on CTA and has new, subtle LUE/LLE weakness and no
   reflexes on LLE which is new per neuro consistent with lesion on right.
   This lesion is most likely vascular in nature, either a small infarct
   which converted to a bleed, versus less likely malignant ? metastatic
   colon cancer. Once medically stable neuro recommends MRI with
   gadolinium to asses lesion. If does not enhance, likely bleed.
   -appreciate neuro recs
   -ASA 81mg
   -serial neuro exams.
   -keppra for seizure prophylaxis.
   -avoid benzos
   -follow resp status, serial ABGs.
   -continue gentle diureis
   .
   # Hx Diarrhea:
   hx C.diff on chronic suppression therapy with p.o vanc/flagyll with
   last cx at [**Hospital **] rehab on [**2196-1-15**] negative but abx were continued to
   continued diarrhea. However diarrhea has stopped so c.diff directed abx
   stopped this hospitalization.
   -judicious use abx given hx c.diff
   -cx if diarrhea.
   .
   #hx GI bleed: s/p hemicolectomy following which she presented to [**Hospital 12**]
   rehab.
   Baseline Hct ~ 30, 35 on [**3-5**] now 32.2
   Continue to trend daily.
   Guiac all stools
   active type and screen.
   .
   FEN: NPO for now. Speech and swallow initially consulted but became
   unresponsive. Reconsult when pt alert. RISS, GFS.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: holding given INR 5.0. Trend INR.
   .
   -Pain management with tylenol/gabapentin
   -Bowel regimen: hold
   .
   Lines:
   PICC Line - [**2196-1-28**] 11:01 AM
   20 Gauge - [**2196-1-28**] 11:02 AM
   Stress ulcer: none
   VAP:
   DISPO: CCU for now
   COMM: [**Name (NI) 651**], [**Name (NI) 2667**]: [**Telephone/Fax (1) 11765**]
   Code: Full
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: holding given INR 5.0. Trend INR.
   .
   -Pain management with tylenol/gabapentin
   -Bowel regimen: hold
   .
   Lines:
   PICC Line - [**2196-1-28**] 11:01 AM
   20 Gauge - [**2196-1-28**] 11:02 AM
   Stress ulcer: none
   VAP:
   DISPO: CCU for now
   COMM: [**Name (NI) 651**], [**Name (NI) 2667**]: [**Telephone/Fax (1) 11765**]
   Code: Full

2196-01-30 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2196-1-29**] 10:00 PM
   -TEE performed showing No vegetations on valves or RV/RA wires. Mild to
   moderate mitral regurgitation.
   -dental consulted recommended oral surgery consult for tooth
   extractions (loose incisors).
   -PA catheter pulled,tip not sent.
   -Last swan numbers:35, 13, 5.7, 2.8, 841.
   Labs showed worsening metabolic alkalosis, stable respiratory
   alkalosis. Started on acetazolamide x 2 doses in addition to K/Phos
   repletions, with ABG this morning showing: *****
   Lasix held given hypotension in afternoon to 60s systolic after
   diuresing two litres. Dobutamin considered but given that C.O
   normalized (and dobutamine would have helped by augmenting CO, and has
   mild vasodilatory pressures so would potentially worsen pressures if it
   doesn't augment her C.O), so started vasopressin instead. BP's
   normalized, restarted lasix with UOP ~ 200cc/hr achieved with lasix
   drip at 10cc/hr.
   5am had 32 beat run of VT, with K of 2.9, agitated.
   K repleted.
   Continued diarrhea. Cdiff
ve x1. Guaic +ve. With crit drop this am to
   27 from 30.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-1-27**] 09:11 AM
   Acyclovir - [**2196-1-27**] 04:42 PM
   Vancomycin - [**2196-1-29**] 06:40 PM
   Cefipime - [**2196-1-29**] 08:00 PM
   Metronidazole - [**2196-1-30**] 05:57 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-29**] 11:00 AM
   Famotidine (Pepcid) - [**2196-1-29**] 08:28 PM
   Metoprolol - [**2196-1-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (85 - 128) bpm
   BP: 103/51(65) {96/42(58) - 129/66(80)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 80.1 kg
             Total In:
                                                                    628 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    270 mL
   Urine:
                                                                  1,190 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.42/51/51/31/6
   PaO2 / FiO2: 73
   Physical Examination
   Neuro: responds to voice, moves extremities spontaneously, tracks,
   unable to follow commands
   CVS: RRR
   Lung: improved, less ronchorous
   Abd: +bs, soft, nt, nd
   Skin: appears slightly yellowed but no scleral icterus
   Ext:1+ edema to upper thigh, improved.
   [**Doctor First Name **] warm extremities, weak peripheral pulses
   Labs / Radiology
   430 K/uL
   8.8 g/dL
   87 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   30.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-1-27**]  04:27 AM
                             [**2196-1-29**]  07:42 PM
                             [**2196-1-29**]  09:22 PM
                             [**2196-1-30**]  05:40 AM
   WBC
   11.7
   9.9
   Hct
   34.7
   30.6
   Plt
   500
   430
   Cr
   0.8
   1.0
   TropT
   0.02
   TCO2
   34
   Glucose
   107
   87
   Other labs: PT / PTT / INR:28.2/41.5/2.8, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**5-13**], Alk Phos / T Bili:62/0.2, Amylase
   / Lipase:/47, Differential-Neuts:80.4 %, Lymph:10.9 %, Mono:6.6 %,
   Eos:2.0 %, Fibrinogen:499 mg/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   63 y/o F w/ decompensated Stage IV CHF admitted for inotropic-assisted
   diuresis with superimposed sepsis, now intubated for hypercarbic
   respiratory failure/airway protection.
   .
   # CHF: Continued evidence CHF with peripheral edema, crackles on lung
   exam. Continued ionotrope assisted diuresis for decompensated CHF.
   Swan ganz dc'd yesterday. Continue diuresis given cardiogenic shock
   picture [**12-29**] CHF.
   Continue lasix drip with lasix bolus's PRN goal negative 1L/day.Renal
   fx tolerating with Cr stable at 1.0
   -Continue pressor support PRN to achieve goal. Wean neo as tolerated,
   d'c vasopressin when able.
   -[**Hospital1 **] lyte checks.
   .
   Sepsis:  Continues to have low grade fever but no white count, swan
   numbers prior to DC arguing against current ongoing sepsis. No
   vegetation evidenced on TEE to suggest endocarditis. MRSA cultured from
   sputum,blood-vanc sensitive. Sparse growth proteus mirabilis from
   sputum sensitive to cefepime.
   Dental consulted given poor dentition.
   Continue vanc/cefepime with Dose vanc by troughs.
   - Consider d/c flagyll.
   -Per dental recs consult oral surgery for tooth extraction. Unstable
   for panorex.
   Appreciate ID recs.
   d/c surveillance blood cx.
   -f/u wound cultures.
   .
   # Respiratory failure: Intubated [**2196-1-25**] for worsening
   hypercarbia/mental status.  Respiratory failure likely multifactorial,
   with some component of heart failure/fluid overload as well as some
   pneumonia component. Pt has thus far failed SBTs.RISBI this am
   Barriers to extubation and MS [**First Name (Titles) **] [**Last Name (Titles) **] dependence for respiratory
   support. Off sedation almost 72 hours MS slowly improving.
   -daily SBTs.
   -acetazolamide/K/Phos repletions for metabolic alkalosis.
   -K/phos repletions
   -continue abx.
   .
   # PUMP: Acute on chronic right and left-sided systolic heart failure.
   Currently holding lasix drip as was hypotensive to low 80
s this am,
   with UOP continued at 200-300cc/hr.
   Titrate lasix to maintain UOP as bp tolerates. Goal negative
   -continue digoxin
    Wean neo as tolerated.
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - holding on beta blocker and ACEi due to pressor requirement
   .
   # RHYTHM: Hx cardiomyopathy s/p ICD placement. TEE estimates EF at 55%,
   more accurate than TTE with EF 30%. Also with hx afib. Currently in
   sinus with frequent ectopy. Holding metoprolol in setting of
   hypotension. Had episode of VT o/n in setting of  low K+.
   -continue telemetry
   -electrolyte repletions PRN.
   -heparin GTT for Afib. Had some bleeding with TEE now Guaic +Ve stools,
   Crit drop. PTTs in 70s, stable
   -consider holding heparin temporarily, repeat crit, maintain active T
   and S.
   -Hold Coumadin until medically stable.
   -serial EKGs.
   # MS: initially noted to have anisocoria. Now PERRLA but still sluggish
   MS. [**Name13 (STitle) 317**] been off sedation 72 hours although did get versed/fentanyl x1
   for TEE yesterday. Non con CT head showing extensive paranasal sinus
   disease, ? NP hydrocephalus, small radiolucent focus in Left frontal
   bone.
   f/u ? intracranial process as o/p with further imaging
   -continue pressors to maintain CO/cerebral perfusion.
   -daily neuro exams.
   -electrolytes PRN.
   - f/u ? NP hydrocephalus and focal lesion as o/p
   .
   # Hypervolemic hyponatremia: likely secondary to CHF.
   Resolved with Na 139
   -continue to trend.
   .
   # Elevated lactate: Likely secondary to hypoperfusion. Trending down.
   - continue hemodynamic support with pressors
   -continue to trend.
   .
   # Hypothyroidism:
   - continue Synthroid
   .
   # Cardiac Risk Factors: LDL 69.  HbA1c 6.6.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full)
 continue tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-1-23**] 06:00 PM
   Multi Lumen - [**2196-1-23**] 09:05 PM
   .
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full)
 continue tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-1-23**] 06:00 PM
   Multi Lumen - [**2196-1-23**] 09:05 PM
   .
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now

2196-01-30 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2196-1-29**] 10:00 PM
   -TEE performed showing No vegetations on valves or RV/RA wires. Mild to
   moderate mitral regurgitation.
   -dental consulted recommended oral surgery consult for tooth
   extractions (loose incisors).
   -PA catheter pulled,tip not sent.
   -Last swan numbers:35, 13, 5.7, 2.8, 841.
   Labs showed worsening metabolic alkalosis, stable respiratory
   alkalosis. Started on acetazolamide x 2 doses in addition to K/Phos
   repletions, with ABG this morning showing: *****
   Lasix held given hypotension in afternoon to 60s systolic after
   diuresing two litres. Dobutamin considered but given that C.O
   normalized (and dobutamine would have helped by augmenting CO, and has
   mild vasodilatory pressures so would potentially worsen pressures if it
   doesn't augment her C.O), so started vasopressin instead. BP's
   normalized, restarted lasix with UOP ~ 200cc/hr achieved with lasix
   drip at 10cc/hr.
   5am had 32 beat run of VT, with K of 2.9, agitated.
   K repleted.
   Continued diarrhea. Cdiff
ve x1. Guaic +ve. With crit drop this am to
   27 from 30.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-1-27**] 09:11 AM
   Acyclovir - [**2196-1-27**] 04:42 PM
   Vancomycin - [**2196-1-29**] 06:40 PM
   Cefipime - [**2196-1-29**] 08:00 PM
   Metronidazole - [**2196-1-30**] 05:57 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-29**] 11:00 AM
   Famotidine (Pepcid) - [**2196-1-29**] 08:28 PM
   Metoprolol - [**2196-1-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (85 - 128) bpm
   BP: 103/51(65) {96/42(58) - 129/66(80)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 80.1 kg
             Total In:
                                                                    628 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    270 mL
   Urine:
                                                                  1,190 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.42/51/51/31/6
   PaO2 / FiO2: 73
   Physical Examination
   Neuro: responds to voice, moves extremities spontaneously, tracks,
   unable to follow commands
   CVS: RRR
   Lung: improved, less ronchorous
   Abd: +bs, soft, nt, nd
   Skin: appears slightly yellowed but no scleral icterus
   Ext:1+ edema to upper thigh, improved.
   [**Doctor First Name **] warm extremities, weak peripheral pulses
   Labs / Radiology
   430 K/uL
   8.8 g/dL
   87 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   30.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-1-27**]  04:27 AM
                             [**2196-1-29**]  07:42 PM
                             [**2196-1-29**]  09:22 PM
                             [**2196-1-30**]  05:40 AM
   WBC
   11.7
   9.9
   Hct
   34.7
   30.6
   Plt
   500
   430
   Cr
   0.8
   1.0
   TropT
   0.02
   TCO2
   34
   Glucose
   107
   87
   Other labs: PT / PTT / INR:28.2/41.5/2.8, CK / CKMB /
   Troponin-T:15//0.02, ALT / AST:[**5-13**], Alk Phos / T Bili:62/0.2, Amylase
   / Lipase:/47, Differential-Neuts:80.4 %, Lymph:10.9 %, Mono:6.6 %,
   Eos:2.0 %, Fibrinogen:499 mg/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 PNEUMONIA, ASPIRATION
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   63 y/o F w/ decompensated Stage IV CHF admitted for inotropic-assisted
   diuresis with superimposed sepsis, now intubated for hypercarbic
   respiratory failure/airway protection.
   .
   # CHF: Continued evidence CHF with peripheral edema, crackles on lung
   exam. Continued ionotrope assisted diuresis for decompensated CHF.
   Swan ganz dc'd yesterday. Continue diuresis given cardiogenic shock
   picture [**12-29**] CHF.
   Continue lasix drip with lasix bolus's PRN goal negative 1L/day.Renal
   fx tolerating with Cr stable at 1.0
   -Continue pressor support PRN to achieve goal. Wean neo as tolerated,
   d'c vasopressin when able.
   -[**Hospital1 **] lyte checks.
   .
   Sepsis:  Continues to have low grade fever but no white count, swan
   numbers prior to DC arguing against current ongoing sepsis. No
   vegetation evidenced on TEE to suggest endocarditis. MRSA cultured from
   sputum,blood-vanc sensitive. Sparse growth proteus mirabilis from
   sputum sensitive to cefepime.
   Dental consulted given poor dentition.
   Continue vanc/cefepime with Dose vanc by troughs.
   - Consider d/c flagyll.
   -Per dental recs consult oral surgery for tooth extraction. Unstable
   for panorex.
   Appreciate ID recs.
   d/c surveillance blood cx.
   -f/u wound cultures.
   .
   # Respiratory failure: Intubated [**2196-1-25**] for worsening
   hypercarbia/mental status.  Respiratory failure likely multifactorial,
   with some component of heart failure/fluid overload as well as some
   pneumonia component. Pt has thus far failed SBTs.RISBI this am
   Barriers to extubation and MS [**First Name (Titles) **] [**Last Name (Titles) **] dependence for respiratory
   support. Off sedation almost 72 hours MS slowly improving.
   -daily SBTs.
   -acetazolamide/K/Phos repletions for metabolic alkalosis.
   -K/phos repletions
   -continue abx.
   .
   # PUMP: Acute on chronic right and left-sided systolic heart failure,
   Continue lasix drip.
   -continue digoxin
    Wean neo as tolerated.
   .
   # CORONARIES:  CTO of proximal LAD.  CE's negative at OSH.
   - continue aspirin 81mg daily
   - continue zocor
   - holding on beta blocker and ACEi due to pressor requirement
   .
   # RHYTHM: Hx cardiomyopathy s/p ICD placement. TEE estimates EF at 55%,
   more accurate than TTE with EF 30%. Also with hx afib. Currently in
   sinus with frequent ectopy. Holding metoprolol in setting of
   hypotension. Had episode of VT o/n in setting of  low K+.
   -continue telemetry
   -electrolyte repletions PRN.
   -heparin GTT for Afib. Had some bleeding with TEE now Guaic +Ve stools,
   Crit drop. PTTs in 70s, stable
   -consider holding heparin temporarily, repeat crit, maintain active T
   and S.
   -Hold Coumadin until medically stable.
   -serial EKGs.
   # MS: initially noted to have anisocoria. Now PERRLA but still sluggish
   MS. [**Name13 (STitle) 317**] been off sedation 72 hours although did get versed/fentanyl x1
   for TEE yesterday. Non con CT head showing extensive paranasal sinus
   disease, ? NP hydrocephalus, small radiolucent focus in Left frontal
   bone.
   f/u ? intracranial process as o/p with further imaging
   -continue pressors to maintain CO/cerebral perfusion.
   -daily neuro exams.
   -electrolytes PRN.
   - f/u ? NP hydrocephalus and focal lesion as o/p
   .
   # Hypervolemic hyponatremia: likely secondary to CHF.
   Resolved with Na 139
   -continue to trend.
   .
   # Elevated lactate: Likely secondary to hypoperfusion. Trending down.
   - continue hemodynamic support with pressors
   -continue to trend.
   .
   # Hypothyroidism:
   - continue Synthroid
   .
   # Cardiac Risk Factors: LDL 69.  HbA1c 6.6.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full)
 continue tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-1-23**] 06:00 PM
   Multi Lumen - [**2196-1-23**] 09:05 PM
   .
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full)
 continue tube feeds.
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2196-1-23**] 06:00 PM
   Multi Lumen - [**2196-1-23**] 09:05 PM
   .
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication:  Comments: Brother is HCP (contact info in chart)
   Code status: Full code
   Disposition: CCU for now

2196-01-30 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2196-1-29**] 10:00 PM
    Overnight events:
   Initially continued to be tachycardic in low 100s. Started on schedule
   of lopressor 15mg IV q4  with HR mostly in 90s in afib.
   AM CXR read as RLL collapse, stable Left pleural effusion, no PNA or
   CHF. Planned for CT chest ? etiology with DD lung collapse including
   aspiration, mucous plugging, pna, malignancy. Started to desat around
   5pm to mid 80s on 4% NC, improved on 40% shovel mask. ABG obtained at
   that time showed 7.42/51/51/34 from 7.35/63/72/36, more consistent with
   venous gas. Started on abx coverage for hospital acquired PNA with
   aspiration coverage with vanc/cefepime/flagyll. Continued to have low
   grade temp 99.8 then spiked temp around 9pm to 102, defervesced with
   tylenol and congested cough but unable to clear secretions for sputum
   cx. Continued to congestion on lung exam, although did not appear very
   uncomfortable, not using accessory muscles. 02 sat's improved on shovel
   mask/suctioning, although intermittently desaturated, with multiple neb
   treatments, uptitration to 100% shovel mask by respiratory therapy with
   sat's in mid to low 90s. Repeat ABG was deferred given no contribution
   to management, management guided by clinical status. Initially held
   lasix drip but UOP started to drop off and BP's were in the one teens,
   although 02 sats at this point stable in the low 90s. Restarted lasix
   drip to run negative.
   8 beat run of NSVT at 3:30am.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-1-27**] 09:11 AM
   Acyclovir - [**2196-1-27**] 04:42 PM
   Vancomycin - [**2196-1-29**] 06:40 PM
   Cefipime - [**2196-1-29**] 08:00 PM
   Metronidazole - [**2196-1-30**] 05:57 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-29**] 11:00 AM
   Famotidine (Pepcid) - [**2196-1-29**] 08:28 PM
   Metoprolol - [**2196-1-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (85 - 128) bpm
   BP: 103/51(65) {96/42(58) - 129/66(80)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 80.1 kg
             Total In:
                                                                    628 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    270 mL
   Urine:
                                                                  1,190 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.42/51/51/31/6
   PaO2 / FiO2: 73
   Physical Examination
   Neuro: AO to Person, time, disoriented to place
   CVS:irregularly irregular, SEM
   Lung: improved, less ronchorous, less wheeze, JVP ~ 7cm
   Abd: +bs, soft, nt, nd
   Ext : WWP, 1+ edema below knee, mid shin bandages in place.
   warm extremities, weak peripheral pulses
   Labs / Radiology
   430 K/uL
   8.8 g/dL
   87 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   30.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-1-27**]  04:27 AM
                             [**2196-1-29**]  07:42 PM
                             [**2196-1-29**]  09:22 PM
                             [**2196-1-30**]  05:40 AM
   WBC
   11.7
   9.9
   Hct
   34.7
   30.6
   Plt
   500
   430
   Cr
   0.8
   1.0
   TropT
   0.02
   TCO2
   34
   Glucose
   107
   87
   ASSESSMENT AND PLAN
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colonic adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures  on [**2196-1-26**] who had MS
   change first noted following MRI, who subsequently flashed on the floor
   in the setting of holding lasix.
   .
   Afib: Pt in Afib with RVR on arrival. Had been NPO for some time on the
   floor, had been on p.o metoprolol on [**1-27**] am  then changed to IV at 5-10
   Q4 on 3/3pm but didn't get any on [**1-28**] although written, ? [**12-29**] low SBPs.
   On arrival to floor received IV metoprolol 2.5 with improvement rate to
   80's from 128.
   Uptitrated metoprolol to 15mg IV q4 (conversion 2.5:1 IV to p.o)
   -continue metoprolol IV.
   As becomes more alert, able to tolerate pills convert to p.o.
   -am EKG.
   # Flash Pulmonary Edema: CAD s/p CABG  86F with CAD s/p CABG [**10/2189**]
   (SVG-OM, LIMA-LAD)
   -Given AS pt very sensitive to fluid shifts, had been lying down for a
   long time at MRI and lasix was being held on floor to prevent cerebral
   hypoperfusion with subsequent flash.
   On arrival to ICU received IV lasix bolus 60mg IV and started on lasix
   drip.
   Continue lasix drip, titrating based on clinical appearance/respiratory
   status.
   -On digoxin chronically, typically not preferred in setting of normal
   EF, will continue for now. Dig level 0.9 (range 0.9-2)
   -repeat ABG this pm
   -repeat CXR in am.
   .
   #AS:  AS s/p valvuloplasty [**11-3**].Severe AS on Echo [**2196-1-27**] with valve
   area not quantified but LVOT of 12 noted which was not noted on Echo of
   [**12-29**] but valve area of 0.8. EF stable at 60%.  AS known critical,
   unclear if worsened AS since [**Month (only) **] as valve area not quantified but known
   to be critical. Pt poor surgical candidate thus had not received AVR.
   -Consideration being given for minimally invasive percutaneous valve
   replacement.
   -f/u with ICU fellow/Dr [**Last Name (STitle) 8906**]
   [**Name (STitle) 1658**] cautious diruesis in setting critical AS.
   .
   #  MS Change: Likely multifactorial related to benzodiazepine pre MRI
   although only received 0.5mg, C02 retention [**12-29**] fatigue with mildly
   elevated C02 of 63 on ABG, and low CO with CHF.
   Did have [**Doctor Last Name 11764**] on CTA and has new, subtle LUE/LLE weakness and no
   reflexes on LLE which is new per neuro consistent with lesion on right.
   This lesion is most likely vascular in nature, either a small infarct
   which converted to a bleed, versus less likely malignant ? metastatic
   colon cancer. Once medically stable neuro recommends MRI with
   gadolinium to asses lesion. If does not enhance, likely bleed.
   -appreciate neuro recs
   -ASA 81mg
   -serial neuro exams.
   -keppra for seizure prophylaxis.
   -gentle diuresis
   -avoid benzos
   -follow resp status, serial ABGs.
   -diuresis
   .
   # ? Infection: Pt low grade temp to 100.3.
   Had been lying flat at MRI y/d, possible aspiration pneumonitis.
   If spikes temp, white count, institute Abx coverage with cipro.
   f/u with [**Hospital1 **] ? chronic suppression with vanc for c.diff
   Blood cx drawn with initial question of meningitis on presentation with
   seizures have been negative x 3. Urine cx negative x1, repeat drawn on
   [**2196-1-29**] pending.
   -f/u final urine cx
   -trend WBC, fever curve.
   .
   # Hx Diarrhea:
   hx C.diff on chronic suppression therapy with p.o  vanc/flagyll with
   last cx at [**Hospital **] rehab on [**2196-1-15**] negative but abx were continued to
   continued diarrhea. However diarrhea has stopped so abx stopped this
   hospitalization.
   Continue to monitor.
   .
   #hx GI bleed: s/p hemicolectomy following which she presented to [**Hospital 12**]
   rehab.
   Baseline Hct ~ 30, 35 on [**3-5**] now 32.2
   Continue to trend daily.
   Guiac all stools
   active type and screen.
   .
   FEN: NPO currently. Speech and swallow initially consulted but became
   unresponsive. Reconsult when pt alert.
   Continue RISS, finger sticks.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: holding given INR 5.0
   -Pain management with tylenol/gabapentin
   -Bowel regimen: hold
   .
   CODE: FULL
   .
   COMM: [**Name (NI) 651**], [**Name (NI) 2667**]:  [**Telephone/Fax (1) 11765**]
   .
   DISPO: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per Housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Improving
   Continue diuresis
   Rate is better controlled
   Sit up to improve respiratory function
   ------ Protected Section Addendum Entered By:[**Name (NI) 34**] [**Name (NI) **],MD
   on:[**2196-1-30**] 10:22 ------

2196-01-30 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.8
F - [**2196-1-29**] 10:00 PM
    Overnight events:
   Initially continued to be tachycardic in low 100s. Started on schedule
   of lopressor 15mg IV q4  with HR mostly in 90s in afib.
   AM CXR read as RLL collapse, stable Left pleural effusion, no PNA or
   CHF. Planned for CT chest ? etiology with DD lung collapse including
   aspiration, mucous plugging, pna, malignancy. Started to desat around
   5pm to mid 80s on 4% NC, improved on 40% shovel mask. ABG obtained at
   that time showed 7.42/51/51/34 from 7.35/63/72/36, more consistent with
   venous gas. Started on abx coverage for hospital acquired PNA with
   aspiration coverage with vanc/cefepime/flagyll. Continued to have low
   grade temp 99.8 then spiked temp around 9pm to 102, defervesced with
   tylenol and congested cough but unable to clear secretions for sputum
   cx. Continued to congestion on lung exam, although did not appear very
   uncomfortable, not using accessory muscles. 02 sat's improved on shovel
   mask/suctioning, although intermittently desaturated, with multiple neb
   treatments, uptitration to 100% shovel mask by respiratory therapy with
   sat's in mid to low 90s. Repeat ABG was deferred given no contribution
   to management, management guided by clinical status. Initially held
   lasix drip but UOP started to drop off and BP's were in the one teens,
   although 02 sats at this point stable in the low 90s. Restarted lasix
   drip to run negative.
   8 beat run of NSVT at 3:30am.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2196-1-27**] 09:11 AM
   Acyclovir - [**2196-1-27**] 04:42 PM
   Vancomycin - [**2196-1-29**] 06:40 PM
   Cefipime - [**2196-1-29**] 08:00 PM
   Metronidazole - [**2196-1-30**] 05:57 AM
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-1-29**] 11:00 AM
   Famotidine (Pepcid) - [**2196-1-29**] 08:28 PM
   Metoprolol - [**2196-1-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-1-30**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.8
C (101.8
   Tcurrent: 36.5
C (97.7
   HR: 87 (85 - 128) bpm
   BP: 103/51(65) {96/42(58) - 129/66(80)} mmHg
   RR: 21 (18 - 29) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 86 kg (admission): 80.1 kg
             Total In:
                                                                    628 mL
                                                                    300 mL
   PO:
             TF:
   IVF:
                                                                    628 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,190 mL
                                                                    270 mL
   Urine:
                                                                  1,190 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -562 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.42/51/51/31/6
   PaO2 / FiO2: 73
   Physical Examination
   Neuro: AO to Person, time, disoriented to place
   CVS:irregularly irregular, SEM
   Lung: improved, less ronchorous, less wheeze, JVP ~ 7cm
   Abd: +bs, soft, nt, nd
   Ext : WWP, 1+ edema below knee, mid shin bandages in place.
   warm extremities, weak peripheral pulses
   Labs / Radiology
   430 K/uL
   8.8 g/dL
   87 mg/dL
   1.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   17 mg/dL
   100 mEq/L
   141 mEq/L
   30.6 %
   9.9 K/uL
        [image002.jpg]
                             [**2196-1-27**]  04:27 AM
                             [**2196-1-29**]  07:42 PM
                             [**2196-1-29**]  09:22 PM
                             [**2196-1-30**]  05:40 AM
   WBC
   11.7
   9.9
   Hct
   34.7
   30.6
   Plt
   500
   430
   Cr
   0.8
   1.0
   TropT
   0.02
   TCO2
   34
   Glucose
   107
   87
   ASSESSMENT AND PLAN
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colonic adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures  on [**2196-1-26**] who had MS
   change first noted following MRI, who subsequently flashed on the floor
   in the setting of holding lasix.
   .
   Afib: Pt in Afib with RVR on arrival. Had been NPO for some time on the
   floor, had been on p.o metoprolol on [**1-27**] am  then changed to IV at 5-10
   Q4 on 3/3pm but didn't get any on [**1-28**] although written, ? [**12-29**] low SBPs.
   On arrival to floor received IV metoprolol 2.5 with improvement rate to
   80's from 128.
   Uptitrated metoprolol to 15mg IV q4 (conversion 2.5:1 IV to p.o)
   -continue metoprolol IV.
   As becomes more alert, able to tolerate pills convert to p.o.
   -am EKG.
   # Flash Pulmonary Edema: CAD s/p CABG  86F with CAD s/p CABG [**10/2189**]
   (SVG-OM, LIMA-LAD)
   -Given AS pt very sensitive to fluid shifts, had been lying down for a
   long time at MRI and lasix was being held on floor to prevent cerebral
   hypoperfusion with subsequent flash.
   On arrival to ICU received IV lasix bolus 60mg IV and started on lasix
   drip.
   Continue lasix drip, titrating based on clinical appearance/respiratory
   status.
   -On digoxin chronically, typically not preferred in setting of normal
   EF, will continue for now. Dig level 0.9 (range 0.9-2)
   -repeat ABG this pm
   -repeat CXR in am.
   .
   #AS:  AS s/p valvuloplasty [**11-3**].Severe AS on Echo [**2196-1-27**] with valve
   area not quantified but LVOT of 12 noted which was not noted on Echo of
   [**12-29**] but valve area of 0.8. EF stable at 60%.  AS known critical,
   unclear if worsened AS since [**Month (only) **] as valve area not quantified but known
   to be critical. Pt poor surgical candidate thus had not received AVR.
   -Consideration being given for minimally invasive percutaneous valve
   replacement.
   -f/u with ICU fellow/Dr [**Last Name (STitle) 8906**]
   [**Name (STitle) 1658**] cautious diruesis in setting critical AS.
   .
   #  MS Change: Likely multifactorial related to benzodiazepine pre MRI
   although only received 0.5mg, C02 retention [**12-29**] fatigue with mildly
   elevated C02 of 63 on ABG, and low CO with CHF.
   Did have [**Doctor Last Name 11764**] on CTA and has new, subtle LUE/LLE weakness and no
   reflexes on LLE which is new per neuro consistent with lesion on right.
   This lesion is most likely vascular in nature, either a small infarct
   which converted to a bleed, versus less likely malignant ? metastatic
   colon cancer. Once medically stable neuro recommends MRI with
   gadolinium to asses lesion. If does not enhance, likely bleed.
   -appreciate neuro recs
   -ASA 81mg
   -serial neuro exams.
   -keppra for seizure prophylaxis.
   -gentle diuresis
   -avoid benzos
   -follow resp status, serial ABGs.
   -diuresis
   .
   # ? Infection: Pt low grade temp to 100.3.
   Had been lying flat at MRI y/d, possible aspiration pneumonitis.
   If spikes temp, white count, institute Abx coverage with cipro.
   f/u with [**Hospital1 **] ? chronic suppression with vanc for c.diff
   Blood cx drawn with initial question of meningitis on presentation with
   seizures have been negative x 3. Urine cx negative x1, repeat drawn on
   [**2196-1-29**] pending.
   -f/u final urine cx
   -trend WBC, fever curve.
   .
   # Hx Diarrhea:
   hx C.diff on chronic suppression therapy with p.o  vanc/flagyll with
   last cx at [**Hospital **] rehab on [**2196-1-15**] negative but abx were continued to
   continued diarrhea. However diarrhea has stopped so abx stopped this
   hospitalization.
   Continue to monitor.
   .
   #hx GI bleed: s/p hemicolectomy following which she presented to [**Hospital 12**]
   rehab.
   Baseline Hct ~ 30, 35 on [**3-5**] now 32.2
   Continue to trend daily.
   Guiac all stools
   active type and screen.
   .
   FEN: NPO currently. Speech and swallow initially consulted but became
   unresponsive. Reconsult when pt alert.
   Continue RISS, finger sticks.
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx: holding given INR 5.0
   -Pain management with tylenol/gabapentin
   -Bowel regimen: hold
   .
   CODE: FULL
   .
   COMM: [**Name (NI) 651**], [**Name (NI) 2667**]:  [**Telephone/Fax (1) 11765**]
   .
   DISPO: CCU for now

2196-02-22 07:18:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT INTERN NOTE
   Chief Complaint:
   24 Hour Events:
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-21**] 08:02 PM
   Dilantin - [**2196-2-22**] 03:42 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-22**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 95 (91 - 108) bpm
   BP: 96/50(67) {90/50(64) - 138/70(96)} mmHg
   RR: 5 (0 - 27) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 103.5 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 18 (18 - 25)mmHg
   Total In:
                                                                  1,622 mL
                                                                    460 mL
   PO:
   TF:
                                                                    840 mL
                                                                    255 mL
   IVF:
                                                                    591 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                    315 mL
                                                                     85 mL
   Urine:
                                                                    315 mL
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,307 mL
                                                                    375 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 362 (320 - 374) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 118
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 25 cmH2O
   SpO2: 95%
   ABG: 7.32/38/102/18/-5
   Ve: 7.9 L/min
   PaO2 / FiO2: 204
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   422 K/uL
   7.6 g/dL
   137 mg/dL
   3.7 mg/dL
   18 mEq/L
   4.8 mEq/L
   123 mg/dL
   103 mEq/L
   137 mEq/L
   24.7 %
   7.0 K/uL
        [image002.jpg]
                             [**2196-2-21**]  03:53 AM
                             [**2196-2-21**]  04:00 AM
                             [**2196-2-21**]  04:12 AM
                             [**2196-2-21**]  02:26 PM
                             [**2196-2-21**]  11:27 PM
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
   WBC
   7.4
   7.0
   Hct
   26.6
   24.7
   Plt
   462
   422
   Cr
   3.8
   3.7
   TCO2
   21
   23
   21
   21
   20
   20
   Glucose
   126
   126
   120
   137
   Other labs: PT / PTT / INR:15.0/65.8/1.3, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.0 mg/dL, Mg++:2.2 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2196-2-22**] 03:27 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-23 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dr [**Last Name (STitle) 8906**] talked to Dr. [**Last Name (STitle) 12004**] by telephone - appears that Dr. [**Last Name (STitle) 8906**]
   is still not keen to give phenobarbital - not ordered.  However states,
   Will continue to taper phenobarbital in an effort to reverse metabolic
   encephalopathy.
   Family meeting to discuss options is scheduled for Wednesday.
   - Neurology consider most likely cause of coma is uremia, hypoxia,
   sedating meds, less likely carcinomatosis/paraneoplastic (we would also
   add hypoxic injury, which is not always obvious by MRI)
   - Family want to wait until Wednesday to make further decisions.
   - Three admission in afternoon, so deferred LP to a.m. - restarted
   heparin - hold again in a.m. and post-calls will do LP.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-22**] 08:00 PM
   Dilantin - [**2196-2-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-23**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 85 (82 - 99) bpm
   BP: 107/51(72) {92/48(67) - 130/68(86)} mmHg
   RR: 14 (0 - 24) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 19 (17 - 21)mmHg
   Total In:
                                                                  1,441 mL
                                                                    280 mL
   PO:
   TF:
                                                                    841 mL
                                                                    111 mL
   IVF:
                                                                    510 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    954 mL
                                                                     74 mL
   Urine:
                                                                    354 mL
                                                                     74 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    487 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   SpO2: 92%
   ABG: ///19/
   Ve: 9.6 L/min
   Physical Examination
   GENERAL: Intubated, Sedated. Not responsive to verbal stimuli.
   NECK: Trach in place.
   CARDIAC: Irregular. [**1-2**] crescendo/decrescendo murmur loudest at RUSB.
   LUNGS: Ventilated breath sounds. Unable to hear good breath sounds at
   the bases.
   ABDOMEN: Obese, S/NT/ND, BS present. PEG in place.
   EXTREMITIES: Pitting edema noted in all 4 extremities.
   NEURO: Comatose (GCS 3), no plantar response on left and small upgoing
   on right. Jaw jerk hyperactive, glalbella tap present, corneals WNLs
   bilaterally. No doll
s eyes to lateral head roll. PERRL.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   381 K/uL
   7.5 g/dL
   122 mg/dL
   3.8 mg/dL
   19 mEq/L
   4.8 mEq/L
   124 mg/dL
   102 mEq/L
   136 mEq/L
   25.5 %
   7.1 K/uL
        [image002.jpg]
                             [**2196-2-21**]  04:12 AM
                             [**2196-2-21**]  02:26 PM
                             [**2196-2-21**]  11:27 PM
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
   WBC
   7.0
   7.1
   Hct
   24.7
   25.5
   Plt
   422
   381
   Cr
   3.7
   3.7
   3.8
   TCO2
   21
   23
   21
   21
   20
   20
   Glucose
   120
   137
   127
   122
   Other labs: PT / PTT / INR:13.7/56.7/1.2, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension requiring
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 123 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy. Not likely related to
   presently low levels of AEDs. Given this state, we need to aggressively
   treat reversible causes, if present, then determine whether further
   cardiac interventions are warranted This will require some further
   investigations and discussion with Dr [**Last Name (STitle) 8906**], Neurology, the family.
   - Attending and family keen to stop AEDs, so will need to check with
   them prior to giving phenobarbital
   - LP today for cytology
   - Continue phenytoin
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - [**Hospital1 **] lytes
   - Monitor volume status, UOP.
   - Holding off on valvuloplasty at this point
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Stop heparin this a.m. for LP this afternoon
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - Trend coags
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - f/u cx data
   - follow fever curve
   - f/u stool for c.diff
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-23**] 12:00 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-23 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dr [**Last Name (STitle) 8906**] talked to Dr. [**Last Name (STitle) 12004**] by telephone.  Plan is to not restart
   phenobarbital
   - Family meeting to discuss options is scheduled for Wednesday.
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-22**] 08:00 PM
   Dilantin - [**2196-2-22**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-23**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98
   HR: 85 (82 - 99) bpm
   BP: 107/51(72) {92/48(67) - 130/68(86)} mmHg
   RR: 14 (0 - 24) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 19 (17 - 21)mmHg
   Total In:
                                                                  1,441 mL
                                                                    280 mL
   PO:
   TF:
                                                                    841 mL
                                                                    111 mL
   IVF:
                                                                    510 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                    954 mL
                                                                     74 mL
   Urine:
                                                                    354 mL
                                                                     74 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    487 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 56
   PIP: 19 cmH2O
   Plateau: 22 cmH2O
   SpO2: 92%
   ABG: ///19/
   Ve: 9.6 L/min
   Physical Examination
   GENERAL: Intubated, Sedated. Not responsive to verbal stimuli.
   NECK: Trach in place.
   CARDIAC: Irregular. [**1-2**] crescendo/decrescendo murmur loudest at RUSB.
   LUNGS: Ventilated breath sounds. Unable to hear good breath sounds at
   the bases.
   ABDOMEN: Obese, S/NT/ND, BS present. PEG in place.
   EXTREMITIES: Pitting edema noted in all 4 extremities.
   NEURO: nonresponsive, pupils reactive to light, symmetrical
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   381 K/uL
   7.5 g/dL
   122 mg/dL
   3.8 mg/dL
   19 mEq/L
   4.8 mEq/L
   124 mg/dL
   102 mEq/L
   136 mEq/L
   25.5 %
   7.1 K/uL
        [image002.jpg] No new culture data
                             [**2196-2-21**]  04:12 AM
                             [**2196-2-21**]  02:26 PM
                             [**2196-2-21**]  11:27 PM
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
   WBC
   7.0
   7.1
   Hct
   24.7
   25.5
   Plt
   422
   381
   Cr
   3.7
   3.7
   3.8
   TCO2
   21
   23
   21
   21
   20
   20
   Glucose
   120
   137
   127
   122
   Other labs: PT / PTT / INR:13.7/56.7/1.2, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 123 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Family wanst to wait until Wednesday to make further decisions.
   # Acidemia
    ABG noted pH 7.27. Anion gap was 15.  Lactate was not elevated at 1.0
   making metabolic acidosis from renal failure or uremia more likely.  Pt
   not a candidate for HD.
   -          increase ventilation rate for respiratory compensation of
   metabolic acidosis
   -          will hold off on bicarb/fluids
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - [**Hospital1 **] lytes
   - Monitor volume status, UOP.
   - Holding off on valvuloplasty at this point
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - Trend coags
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - f/u cx data
   - follow fever curve
   - f/u stool for c.diff
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-23**] 12:00 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (confirmed by family)
   Disposition:

2196-02-24 07:29:00 Physician Resident Progress Note
Chief Complaint: Critical AS, with failed repair, subsequent
   intraparenchymal cerebral hemorrhage, seizure, family requested Tx to
   CCU where mental status have continued to deteriorate.
   24 Hour Events:
   [**2117-2-22**]
   RT went up on ventalator rate and acidosis improved somewhat
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-23**] 08:00 PM
   Dilantin - [**2196-2-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (80 - 98) bpm
   BP: 106/50(71) {100/45(68) - 132/63(89)} mmHg
   RR: 14 (10 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (16 - 22)mmHg
   Total In:
                                                                  1,341 mL
                                                                    618 mL
   PO:
   TF:
                                                                    682 mL
                                                                    256 mL
   IVF:
                                                                    630 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    125 mL
   Urine:
                                                                    280 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: 7.30/41/112/18/-5
   Ve: 8.1 L/min
   PaO2 / FiO2: 224
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   7.3 g/dL
   124 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   124 mg/dL
   102 mEq/L
   137 mEq/L
   25.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
   WBC
   7.0
   7.1
   7.6
   Hct
   24.7
   25.5
   25.4
   Plt
   422
   381
   357
   Cr
   3.7
   3.7
   3.8
   3.8
   TCO2
   21
   21
   20
   20
   20
   21
   Glucose
   137
   127
   122
   119
   124
   Other labs: PT / PTT / INR:13.2/76.4/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR portable [**2-22**]:
   Portable AP chest radiograph was compared to [**2196-2-16**].
   The tracheostomy is at the midline with its tip being 4.5 cm above the
   carina.
   The left internal jugular line tip is at the level of mid SVC. There is
   no
   change in the cardiomediastinal silhouette. There is interval
   improvement in
   pulmonary edema. The left pleural effusion is present as well as left
   retrocardiac atelectasis. The right lateral chest was not included in
   the
   field of view preventing evaluation of the right pleural effusion.
   Broken sternal wires are unchanged. The gastrostomy is projecting over
   the
   stomach.
   Microbiology: Yeast in urine and sputum. No other significant findings.
   ECG: .
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-24 07:29:00 Physician Resident Progress Note
Chief Complaint: Critical AS, with failed repair, subsequent
   intraparenchymal cerebral hemorrhage, seizure, family requested Tx to
   CCU where mental status have continued to deteriorate.
   24 Hour Events:
   [**2117-2-22**]
   RT went up on ventalator rate and acidosis improved somewhat
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-23**] 08:00 PM
   Dilantin - [**2196-2-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (80 - 98) bpm
   BP: 106/50(71) {100/45(68) - 132/63(89)} mmHg
   RR: 14 (10 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (16 - 22)mmHg
   Total In:
                                                                  1,341 mL
                                                                    618 mL
   PO:
   TF:
                                                                    682 mL
                                                                    256 mL
   IVF:
                                                                    630 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    125 mL
   Urine:
                                                                    280 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: 7.30/41/112/18/-5
   Ve: 8.1 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GENERAL: Intubated, Sedated. Not responsive to verbal stimuli.
   NECK: Trach in place.
   CARDIAC: Irregular. [**1-2**] crescendo/decrescendo murmur loudest at RUSB.
   LUNGS: Ventilated breath sounds. Unable to hear good breath sounds at
   the bases.
   ABDOMEN: Obese, S/NT/ND, BS present. PEG in place.
   EXTREMITIES: Pitting edema noted in all 4 extremities.
   NEURO: Comatose (GCS 3), no plantar response on left and small upgoing
   on right. Jaw jerk hyperactive, glalbella tap present, corneals WNLs
   bilaterally. No doll
s eyes to lateral head roll. PERRL.
   Labs / Radiology
   357 K/uL
   7.3 g/dL
   124 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   124 mg/dL
   102 mEq/L
   137 mEq/L
   25.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
   WBC
   7.0
   7.1
   7.6
   Hct
   24.7
   25.5
   25.4
   Plt
   422
   381
   357
   Cr
   3.7
   3.7
   3.8
   3.8
   TCO2
   21
   21
   20
   20
   20
   21
   Glucose
   137
   127
   122
   119
   124
   Other labs: PT / PTT / INR:13.2/76.4/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR portable [**2-22**]:
   Portable AP chest radiograph was compared to [**2196-2-16**].
   The tracheostomy is at the midline with its tip being 4.5 cm above the
   carina.
   The left internal jugular line tip is at the level of mid SVC. There is
   no
   change in the cardiomediastinal silhouette. There is interval
   improvement in
   pulmonary edema. The left pleural effusion is present as well as left
   retrocardiac atelectasis. The right lateral chest was not included in
   the
   field of view preventing evaluation of the right pleural effusion.
   Broken sternal wires are unchanged. The gastrostomy is projecting over
   the
   stomach.
   Microbiology: Yeast in urine and sputum. No other significant findings.
   Electrrphysiology:
   ECG:
   EEG:
   BACKGROUND: Is diffusely slow and disorganized consisting of mixed
   theta and delta frequencies and occasional periods of diffuse global
   suppression of the background. There were rare bursts of generalized
   slowing and rare generalized sharps occurring in isolation. There were
   no electrographic seizures and there were no periodic discharges.
   HYPERVENTILATION: Could not be performed secondary to history of
   intracranial hemorrhage.
   INTERMITTENT PHOTIC STIMULATION: Could not be performed secondary to
   the portable nature of this study.
   SLEEP: No normal sleep morphology was seen on this recording.
   CARDIAC MONITOR: Showed an irregularly irregular rhythm with occasional
   wide complex ectopic beats.
   IMPRESSION: This is a severely abnormal extended routine EEG due to a
   diffusely slow and disorganized background consisting of mixed theta
   and
   delta frequencies marked by occasional generalized bursts of slowing,
   rare generalized sharps occurring in isolation and occasional brief
   suppressive bursts of the background. There were no periodic discharges
   and there were no electrographic seizures. Overall, this background is
   suggestive of a severe encephalopathy. Amongst the most common causes
   of encephalopathy are medications, infection, metabolic derangements,
   and anoxia.
   INTERPRETED BY: [**Last Name (LF) 8861**],[**First Name3 (LF) **] L.
   Assessment and Plan
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 123 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Family wanst to wait until Wednesday to make further decisions.
   # Acidemia
    ABG noted pH 7.27. Anion gap was 15.  Lactate was not elevated at 1.0
   making metabolic acidosis from renal failure or uremia more likely.  Pt
   not a candidate for HD.
   -          increase ventilation rate for respiratory compensation of
   metabolic acidosis
   -          will hold off on bicarb/fluids
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - [**Hospital1 **] lytes
   - Monitor volume status, UOP.
   - Holding off on valvuloplasty at this point
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - Trend coags
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - f/u cx data
   - follow fever curve
   - f/u stool for c.diff
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-24 07:29:00 Physician Resident Progress Note
Chief Complaint: Critical AS, with failed repair, subsequent
   intraparenchymal cerebral hemorrhage, seizure, family requested Tx to
   CCU where mental status have continued to deteriorate.
   24 Hour Events:
   [**2117-2-22**]
   RT went up on ventalator rate and acidosis improved somewhat
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-23**] 08:00 PM
   Dilantin - [**2196-2-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (80 - 98) bpm
   BP: 106/50(71) {100/45(68) - 132/63(89)} mmHg
   RR: 14 (10 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (16 - 22)mmHg
   Total In:
                                                                  1,341 mL
                                                                    618 mL
   PO:
   TF:
                                                                    682 mL
                                                                    256 mL
   IVF:
                                                                    630 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    125 mL
   Urine:
                                                                    280 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: 7.30/41/112/18/-5
   Ve: 8.1 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GENERAL: Intubated, Sedated. Not responsive to verbal stimuli.
   NECK: Trach in place.
   CARDIAC: Irregular. [**1-2**] crescendo/decrescendo murmur loudest at RUSB.
   LUNGS: Ventilated breath sounds. Unable to hear good breath sounds at
   the bases.
   ABDOMEN: Obese, S/NT/ND, BS present. PEG in place.
   EXTREMITIES: Pitting edema noted in all 4 extremities.
   NEURO: Comatose (GCS 3), no plantar response on left and small upgoing
   on right. Jaw jerk hyperactive, glalbella tap present, corneals WNLs
   bilaterally. No doll
s eyes to lateral head roll. PERRL.
   Labs / Radiology
   357 K/uL
   7.3 g/dL
   124 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   124 mg/dL
   102 mEq/L
   137 mEq/L
   25.4 %
   7.6 K/uL
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
   WBC
   7.0
   7.1
   7.6
   Hct
   24.7
   25.5
   25.4
   Plt
   422
   381
   357
   Cr
   3.7
   3.7
   3.8
   3.8
   TCO2
   21
   21
   20
   20
   20
   21
   Glucose
   137
   127
   122
   119
   124
   Other labs: PT / PTT / INR:13.2/76.4/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR portable [**2-22**]:
   Portable AP chest radiograph was compared to [**2196-2-16**].
   The tracheostomy is at the midline with its tip being 4.5 cm above the
   carina.
   The left internal jugular line tip is at the level of mid SVC. There is
   no
   change in the cardiomediastinal silhouette. There is interval
   improvement in
   pulmonary edema. The left pleural effusion is present as well as left
   retrocardiac atelectasis. The right lateral chest was not included in
   the
   field of view preventing evaluation of the right pleural effusion.
   Broken sternal wires are unchanged. The gastrostomy is projecting over
   the
   stomach.
   Microbiology: Yeast in urine and sputum. No other significant findings.
   Electrrphysiology:
   ECG:
   EEG:
   BACKGROUND: Is diffusely slow and disorganized consisting of mixed
   theta and delta frequencies and occasional periods of diffuse global
   suppression of the background. There were rare bursts of generalized
   slowing and rare generalized sharps occurring in isolation. There were
   no electrographic seizures and there were no periodic discharges.
   HYPERVENTILATION: Could not be performed secondary to history of
   intracranial hemorrhage.
   INTERMITTENT PHOTIC STIMULATION: Could not be performed secondary to
   the portable nature of this study.
   SLEEP: No normal sleep morphology was seen on this recording.
   CARDIAC MONITOR: Showed an irregularly irregular rhythm with occasional
   wide complex ectopic beats.
   IMPRESSION: This is a severely abnormal extended routine EEG due to a
   diffusely slow and disorganized background consisting of mixed theta
   and
   delta frequencies marked by occasional generalized bursts of slowing,
   rare generalized sharps occurring in isolation and occasional brief
   suppressive bursts of the background. There were no periodic discharges
   and there were no electrographic seizures. Overall, this background is
   suggestive of a severe encephalopathy. Amongst the most common causes
   of encephalopathy are medications, infection, metabolic derangements,
   and anoxia.
   INTERPRETED BY: [**Last Name (LF) 8861**],[**First Name3 (LF) **] L.
   Assessment and Plan
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will consider stopping AEDs, given possible contribution to mental
   status
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -          increase ventilation rate for respiratory compensation of
   metabolic acidosis
   -          will hold off on bicarb/fluids
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - [**Hospital1 **] lytes
   - Monitor volume status, UOP.
   - Holding off on valvuloplasty at this point
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - Trend coags
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - f/u cx data
   - follow fever curve
   - f/u stool for c.diff
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   TITLE:  CCU Attending Cardiology Progress Note
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the note by Dr. [**Last Name (STitle) 10366**] today and I agree with
   the plan.
   I would add the following remarks:
   History
   Smiled and opened eyes to husband
s voice.  Off Phenobarbital and
   Dilantin is subtherapeutic (3.3).
   Is increasing her ventilatory requirements on higher degrees of FIO2.
   Still fluid overloaded.
   Medical Decision Making
   Given the finding of her responsiveness to her husband, will temporize
   with supportive care for the next day and reassess supportive measures
   in one day.
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2196-2-24**] 16:45 ------

2196-02-24 07:29:00 Physician Resident Progress Note
Chief Complaint: Critical AS, with failed repair, subsequent
   intraparenchymal cerebral hemorrhage, seizure, family requested Tx to
   CCU where mental status have continued to deteriorate.
   24 Hour Events:
   [**2117-2-22**]
   RT went up on ventalator rate and acidosis improved somewhat
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-23**] 08:00 PM
   Dilantin - [**2196-2-24**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-24**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 89 (80 - 98) bpm
   BP: 106/50(71) {100/45(68) - 132/63(89)} mmHg
   RR: 14 (10 - 31) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (16 - 22)mmHg
   Total In:
                                                                  1,341 mL
                                                                    618 mL
   PO:
   TF:
                                                                    682 mL
                                                                    256 mL
   IVF:
                                                                    630 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    380 mL
                                                                    125 mL
   Urine:
                                                                    280 mL
                                                                    125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    961 mL
                                                                    493 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 92%
   ABG: 7.30/41/112/18/-5
   Ve: 8.1 L/min
   PaO2 / FiO2: 224
   Physical Examination
   GENERAL: Intubated, Sedated. Not responsive to verbal stimuli.
   NECK: Trach in place.
   CARDIAC: Irregular. [**1-2**] crescendo/decrescendo murmur loudest at RUSB.
   LUNGS: Ventilated breath sounds. Unable to hear good breath sounds at
   the bases.
   ABDOMEN: Obese, S/NT/ND, BS present. PEG in place.
   EXTREMITIES: Pitting edema noted in all 4 extremities.
   NEURO: Comatose (GCS 3), no plantar response on left and small upgoing
   on right. Jaw jerk hyperactive, glalbella tap present, corneals WNLs
   bilaterally. No doll
s eyes to lateral head roll. PERRL.
   Labs / Radiology
   357 K/uL
   7.3 g/dL
   124 mg/dL
   3.8 mg/dL
   18 mEq/L
   4.5 mEq/L
   124 mg/dL
   102 mEq/L
   137 mEq/L
   25.4 %
   7.6 K/uL
        [image002.jpg]
                             [**2196-2-21**]  11:51 PM
                             [**2196-2-22**]  01:04 AM
                             [**2196-2-22**]  02:02 AM
                             [**2196-2-22**]  04:44 AM
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
   WBC
   7.0
   7.1
   7.6
   Hct
   24.7
   25.5
   25.4
   Plt
   422
   381
   357
   Cr
   3.7
   3.7
   3.8
   3.8
   TCO2
   21
   21
   20
   20
   20
   21
   Glucose
   137
   127
   122
   119
   124
   Other labs: PT / PTT / INR:13.2/76.4/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:7.9 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR portable [**2-22**]:
   Portable AP chest radiograph was compared to [**2196-2-16**].
   The tracheostomy is at the midline with its tip being 4.5 cm above the
   carina.
   The left internal jugular line tip is at the level of mid SVC. There is
   no
   change in the cardiomediastinal silhouette. There is interval
   improvement in
   pulmonary edema. The left pleural effusion is present as well as left
   retrocardiac atelectasis. The right lateral chest was not included in
   the
   field of view preventing evaluation of the right pleural effusion.
   Broken sternal wires are unchanged. The gastrostomy is projecting over
   the
   stomach.
   Microbiology: Yeast in urine and sputum. No other significant findings.
   Electrrphysiology:
   ECG:
   EEG:
   BACKGROUND: Is diffusely slow and disorganized consisting of mixed
   theta and delta frequencies and occasional periods of diffuse global
   suppression of the background. There were rare bursts of generalized
   slowing and rare generalized sharps occurring in isolation. There were
   no electrographic seizures and there were no periodic discharges.
   HYPERVENTILATION: Could not be performed secondary to history of
   intracranial hemorrhage.
   INTERMITTENT PHOTIC STIMULATION: Could not be performed secondary to
   the portable nature of this study.
   SLEEP: No normal sleep morphology was seen on this recording.
   CARDIAC MONITOR: Showed an irregularly irregular rhythm with occasional
   wide complex ectopic beats.
   IMPRESSION: This is a severely abnormal extended routine EEG due to a
   diffusely slow and disorganized background consisting of mixed theta
   and
   delta frequencies marked by occasional generalized bursts of slowing,
   rare generalized sharps occurring in isolation and occasional brief
   suppressive bursts of the background. There were no periodic discharges
   and there were no electrographic seizures. Overall, this background is
   suggestive of a severe encephalopathy. Amongst the most common causes
   of encephalopathy are medications, infection, metabolic derangements,
   and anoxia.
   INTERPRETED BY: [**Last Name (LF) 8861**],[**First Name3 (LF) **] L.
   Assessment and Plan
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will consider stopping AEDs, given possible contribution to mental
   status
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -          increase ventilation rate for respiratory compensation of
   metabolic acidosis
   -          will hold off on bicarb/fluids
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - [**Hospital1 **] lytes
   - Monitor volume status, UOP.
   - Holding off on valvuloplasty at this point
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - Trend coags
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - f/u cx data
   - follow fever curve
   - f/u stool for c.diff
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-25 07:03:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-25**]
   -Pt family wants one more day of full code since she smiled at
   patient's husband.
   - Family meeting planned again for Thursday [**2-25**] with Dr. [**Last Name (STitle) 8906**] to
   reassess goals
   - No escalation of care
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-24**] 08:46 PM
   Dilantin - [**2196-2-25**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-25**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 92 (87 - 101) bpm
   BP: 112/50(73) {87/45(61) - 131/62(88)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.5 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (14 - 21)mmHg
   Total In:
                                                                  1,710 mL
                                                                    385 mL
   PO:
   TF:
                                                                    842 mL
                                                                    220 mL
   IVF:
                                                                    618 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    356 mL
                                                                    144 mL
   Urine:
                                                                    356 mL
                                                                    144 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,354 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.27/41/118/17/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Imaging: No new
   Microbiology: [**2196-2-18**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2196-2-15**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-14**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-10**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-9**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2196-2-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-7**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   ECG: No new
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - Will d/w with family re transition to DNR/DNI today
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -          increase ventilation rate for respiratory compensation of
   metabolic acidosis
   -          will hold off on bicarb/fluids
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - [**Hospital1 **] lytes
   - Monitor volume status, UOP.
   - Holding off on valvuloplasty at this point
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - Trend coags
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - f/u cx data
   - follow fever curve
   - f/u stool for c.diff
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-25 07:03:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-25**]
   -Pt family wants one more day of full code since she smiled at
   patient's husband.
   - Family meeting planned again for Thursday [**2-25**] with Dr. [**Last Name (STitle) 8906**] to
   reassess goals
   - No escalation of care
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-24**] 08:46 PM
   Dilantin - [**2196-2-25**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-25**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 92 (87 - 101) bpm
   BP: 112/50(73) {87/45(61) - 131/62(88)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.5 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (14 - 21)mmHg
   Total In:
                                                                  1,710 mL
                                                                    385 mL
   PO:
   TF:
                                                                    842 mL
                                                                    220 mL
   IVF:
                                                                    618 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    356 mL
                                                                    144 mL
   Urine:
                                                                    356 mL
                                                                    144 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,354 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.27/41/118/17/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Imaging: No new
   Microbiology: [**2196-2-18**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2196-2-15**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-14**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-10**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-9**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2196-2-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-7**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   ECG: No new
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2196-02-25 07:03:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-25**]
   - Pt family wants one more day of full code since she smiled at
   patient's husband.
   - Family meeting planned again for Thursday [**2-25**] with Dr. [**Last Name (STitle) 8906**] to
   reassess goals
   - No escalation of care
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-24**] 08:46 PM
   Dilantin - [**2196-2-25**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-25**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 92 (87 - 101) bpm
   BP: 112/50(73) {87/45(61) - 131/62(88)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.5 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (14 - 21)mmHg
   Total In:
                                                                  1,710 mL
                                                                    385 mL
   PO:
   TF:
                                                                    842 mL
                                                                    220 mL
   IVF:
                                                                    618 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    356 mL
                                                                    144 mL
   Urine:
                                                                    356 mL
                                                                    144 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,354 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.27/41/118/17/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Imaging: No new
   Microbiology: [**2196-2-18**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2196-2-15**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-14**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-10**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-9**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2196-2-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-7**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   ECG: No new
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - Will d/w with family re transition to DNR/DNI today\
   - Will discuss with family re using oxygen and morphine PRN dyspnea
   - Will discuss discontinuing labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code for now, to discuss code status today
   Disposition: CCU, consider hospice per family meeting

2196-02-25 07:03:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-25**]
   - Pt family wants one more day of full code since she smiled at
   patient's husband.
   - Family meeting planned again for Thursday [**2-25**] with Dr. [**Last Name (STitle) 8906**] to
   reassess goals
   - No escalation of care
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsPenicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,350 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-24**] 08:46 PM
   Dilantin - [**2196-2-25**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-25**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 92 (87 - 101) bpm
   BP: 112/50(73) {87/45(61) - 131/62(88)} mmHg
   RR: 15 (8 - 25) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 107.5 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 16 (14 - 21)mmHg
   Total In:
                                                                  1,710 mL
                                                                    385 mL
   PO:
   TF:
                                                                    842 mL
                                                                    220 mL
   IVF:
                                                                    618 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    356 mL
                                                                    144 mL
   Urine:
                                                                    356 mL
                                                                    144 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,354 mL
                                                                    241 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 20 cmH2O
   Plateau: 25 cmH2O
   Compliance: 36.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.27/41/118/17/-7
   Ve: 8.5 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Imaging: No new
   Microbiology: [**2196-2-18**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B
   TEST-FINAL INPATIENT
   [**2196-2-15**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-14**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-14**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-10**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-9**]  CATHETER TIP-IV WOUND CULTURE-FINAL INPATIENT
   [**2196-2-7**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   INPATIENT
   [**2196-2-7**]  URINE URINE CULTURE-FINAL {YEAST} INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   [**2196-2-7**]  BLOOD CULTURE Blood Culture, Routine-FINAL INPATIENT
   ECG: No new
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - Will d/w with family re transition to DNR/DNI today\
   - Will discuss with family re using oxygen and morphine PRN dyspnea
   - Will discuss discontinuing labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code for now, to discuss code status today
   Disposition: CCU, consider hospice per family meeting
   ------ Protected Section ------
   TITLE:  CCU Attending Cardiology Progress Note
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the note by Dr. [**Last Name (STitle) **] today and I agree with the
   plan.
   I would add the following remarks:
   History
   Unresponsive today even to deep pain.
   Ventilatory settings stabilized on FIO2 = 40%.  Still fluid overloaded.
   Medical Decision Making
   I had a long discussion with her husband, son, and daughter today.
   [**Name2 (NI) 1204**] her very dismal prognosis for recovery, all agree that we should
   proceed with comfort measures only and not initiate CPR in the event of
   a cardiac arrest.
   Total time spent on patient care: 30 minutes of critical care time
   ------ Protected Section Addendum Entered By:[**Name (NI) 5899**] [**Last Name (NamePattern1) 8906**], MD
   on:[**2196-2-25**] 20:13 ------

2196-02-26 07:46:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 1972**]
   -patient's code status changed to DNR; goals shifting towards comfort
   measures but do not stop treatment altogether
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-25**] 09:19 PM
   Dilantin - [**2196-2-26**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 93 (87 - 104) bpm
   BP: 116/54(77) {94/44(63) - 121/58(81)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 109 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (13 - 23)mmHg
   Total In:
                                                                  1,619 mL
                                                                    505 mL
   PO:
   TF:
                                                                    845 mL
                                                                    272 mL
   IVF:
                                                                    614 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    367 mL
                                                                     92 mL
   Urine:
                                                                    367 mL
                                                                     92 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,252 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU

2196-02-26 07:46:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 1972**]
   -patient's code status changed to DNR; goals shifting towards comfort
   measures but do not stop treatment altogether
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-25**] 09:19 PM
   Dilantin - [**2196-2-26**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 93 (87 - 104) bpm
   BP: 116/54(77) {94/44(63) - 121/58(81)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 109 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (13 - 23)mmHg
   Total In:
                                                                  1,619 mL
                                                                    505 mL
   PO:
   TF:
                                                                    845 mL
                                                                    272 mL
   IVF:
                                                                    614 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    367 mL
                                                                     92 mL
   Urine:
                                                                    367 mL
                                                                     92 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,252 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU
   ------ Protected Section ------
   EXAM:
   GEN: Anasarcic, elderly woman, unresponsive to deep stimulation,
   appears comfortable
   CV: RRR, no RMG
   PULM: CTAB, no WRR anteriorly
   ABD: Soft, NTND, +BS, obese
   EXT: Marked UE and LE edema
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 435**] [**Last Name (NamePattern1) **], MD
   on:[**2196-2-27**] 18:43 ------

2196-02-26 07:46:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 1972**]
   -patient's code status changed to DNR; goals shifting towards comfort
   measures but do not stop treatment altogether
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-25**] 09:19 PM
   Dilantin - [**2196-2-26**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 93 (87 - 104) bpm
   BP: 116/54(77) {94/44(63) - 121/58(81)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 109 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (13 - 23)mmHg
   Total In:
                                                                  1,619 mL
                                                                    505 mL
   PO:
   TF:
                                                                    845 mL
                                                                    272 mL
   IVF:
                                                                    614 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    367 mL
                                                                     92 mL
   Urine:
                                                                    367 mL
                                                                     92 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,252 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discuss with family re using oxygen and morphine PRN dyspnea
   - Will discuss discontinuing labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone with goal of net negative 1.5L today
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty. Now on heparin gtt while INR subtherapeutic.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU, consider hospice per family meeting

2196-02-26 07:46:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 1972**]
   -patient's code status changed to DNR; goals shifting towards comfort
   measures but do not stop treatment altogether
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-25**] 09:19 PM
   Dilantin - [**2196-2-26**] 05:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-26**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.5
C (97.7
   HR: 93 (87 - 104) bpm
   BP: 116/54(77) {94/44(63) - 121/58(81)} mmHg
   RR: 18 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 109 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (13 - 23)mmHg
   Total In:
                                                                  1,619 mL
                                                                    505 mL
   PO:
   TF:
                                                                    845 mL
                                                                    272 mL
   IVF:
                                                                    614 mL
                                                                    173 mL
   Blood products:
   Total out:
                                                                    367 mL
                                                                     92 mL
   Urine:
                                                                    367 mL
                                                                     92 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,252 mL
                                                                    413 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 60
   PIP: 20 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-26**] 03:08 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2196-02-27 07:14:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 12038**]
   stopped fingersticks and blood draws for comfort
   stopped heparin gtt
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-26**] 08:30 PM
   Dilantin - [**2196-2-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (79 - 97) bpm
   BP: 112/55(76) {97/47(66) - 118/56(79)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (19 - 22)mmHg
   Total In:
                                                                  1,538 mL
                                                                    454 mL
   PO:
   TF:
                                                                    844 mL
                                                                    252 mL
   IVF:
                                                                    604 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    271 mL
                                                                    465 mL
   Urine:
                                                                    271 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - Will attempt diuresis with bumex/metolazone, as above
   - Appreciate renal recs.
   - Continue to monitor fluid status otherwise
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU

2196-02-27 07:14:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 12038**]
   stopped fingersticks and blood draws for comfort
   stopped heparin gtt
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-26**] 08:30 PM
   Dilantin - [**2196-2-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (79 - 97) bpm
   BP: 112/55(76) {97/47(66) - 118/56(79)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (19 - 22)mmHg
   Total In:
                                                                  1,538 mL
                                                                    454 mL
   PO:
   TF:
                                                                    844 mL
                                                                    252 mL
   IVF:
                                                                    604 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    271 mL
                                                                    465 mL
   Urine:
                                                                    271 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   GEN: Anasarcic, elderly woman, unresponsive to deep stimulation,
   appears comfortable
   CV: RRR, no RMG
   PULM: CTAB, no WRR anteriorly
   ABD: Soft, NTND, +BS, obese
   EXT: Marked UE and LE edema
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - No new interventions
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU

2196-02-27 07:14:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 12038**]
   stopped fingersticks and blood draws for comfort
   stopped heparin gtt
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-26**] 08:30 PM
   Dilantin - [**2196-2-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (79 - 97) bpm
   BP: 112/55(76) {97/47(66) - 118/56(79)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (19 - 22)mmHg
   Total In:
                                                                  1,538 mL
                                                                    454 mL
   PO:
   TF:
                                                                    844 mL
                                                                    252 mL
   IVF:
                                                                    604 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    271 mL
                                                                    465 mL
   Urine:
                                                                    271 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-27**] 12:07 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2196-02-27 07:14:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 12038**]
   stopped fingersticks and blood draws for comfort
   stopped heparin gtt
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-26**] 08:30 PM
   Dilantin - [**2196-2-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (79 - 97) bpm
   BP: 112/55(76) {97/47(66) - 118/56(79)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (19 - 22)mmHg
   Total In:
                                                                  1,538 mL
                                                                    454 mL
   PO:
   TF:
                                                                    844 mL
                                                                    252 mL
   IVF:
                                                                    604 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    271 mL
                                                                    465 mL
   Urine:
                                                                    271 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   GEN: Anasarcic, elderly woman, unresponsive to deep stimulation,
   appears comfortable
   CV: RRR, no RMG
   PULM: CTAB, no WRR anteriorly
   ABD: Soft, NTND, +BS, obese
   EXT: Marked UE and LE edema
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - No new interventions
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) **], MD
   on:[**2196-2-28**] 08:26 ------

2196-02-27 07:14:00 Physician Resident Progress Note
Chief Complaint: CRITICAL AS
   24 Hour Events:
   [**Date range (1) 12038**]
   stopped fingersticks and blood draws for comfort
   stopped heparin gtt
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2196-2-26**] 08:30 PM
   Dilantin - [**2196-2-27**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-27**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 96 (79 - 97) bpm
   BP: 112/55(76) {97/47(66) - 118/56(79)} mmHg
   RR: 22 (8 - 22) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
    CVP: 22 (19 - 22)mmHg
   Total In:
                                                                  1,538 mL
                                                                    454 mL
   PO:
   TF:
                                                                    844 mL
                                                                    252 mL
   IVF:
                                                                    604 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                    271 mL
                                                                    465 mL
   Urine:
                                                                    271 mL
                                                                     65 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,267 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   SpO2: 94%
   ABG: ////
   Ve: 9.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - No new interventions
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU

2196-02-28 07:14:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-27**]:
   - met w/ family, who still hope she might wake up
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2196-2-27**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   HR: 87 (78 - 94) bpm
   BP: 116/52(76) {87/45(60) - 122/59(82)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
             Total In:
                                                                  1,455 mL
                                                                    232 mL
   PO:
             TF:
                                                                    844 mL
                                                                    160 mL
   IVF:
                                                                    341 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    529 mL
                                                                     20 mL
   Urine:
                                                                    129 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    926 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - No new interventions
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:

2196-02-28 07:14:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-27**]:
   - met w/ family, who still hope she might wake up
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2196-2-27**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   HR: 87 (78 - 94) bpm
   BP: 116/52(76) {87/45(60) - 122/59(82)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
             Total In:
                                                                  1,455 mL
                                                                    232 mL
   PO:
             TF:
                                                                    844 mL
                                                                    160 mL
   IVF:
                                                                    341 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    529 mL
                                                                     20 mL
   Urine:
                                                                    129 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    926 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   86 y/o female with hx CAD s/p CABG, Afib, with severe AS s/p
   valvuloplasty, diastolic CHF, colon adenocarcinoma, chronic c.diff,
   admitted with new onset tonic clonic seizures, who subsequently flashed
   on the floor in the setting of holding lasix. Course complicated by
   subclinical seizures (now none for a week on EEG) and deteriorating
   mental status, aspiration pneumonia, now w/respiratory acidosis and
   failure resulting in intubation ([**2-7**]), ARF, hypotension required
   phenylephrine. Transferred to CCU at request of family and consulting
   cardiologist.
   # Coma, seizures, Goals of Care
   Comatose with some brainstem reflexes. No seizures for some time. No
   evidence of cortical function. BUN 124 and patient has been
   intermittently hypotensive. Therefore differential includes (also
   possible multifactorial) uremia, anoxic brain injury and
   carcinoatosis/paraneoplastic encephalopathy (although very unlikely).
   Dr. [**First Name (STitle) 12011**] has discussed issue of Phenobarbital with Dr. [**Last Name (STitle) 12004**]
   (neurology) and  decision made to not restart phenobarbital.
   - No need for LP given carcinomatosis is an extremely unlikely cause of
   coma and metabolic toxicities (many different sources) seem more
   likely.
   - Will continue phenytoin for now given not contributing to mental
   status at such low concentration
   - DNR/DNI focus on comfort
   - Will discontinue labs
   - No escalation of care
   # Acidemia
   ABG slightly improved today - 7.30/41/112/18/-5. Lactate was not
   elevated at 1.0 making metabolic acidosis from renal failure or uremia
   more likely.  Pt not a candidate for HD.
   -No further interventions
   # Aortic Stenosis
   Treatment of this is deferred pending decision about the above.
   Valvuloplasty will need to be repeated (if this is compatible with
   goals of care). Pt with known severe aortic stenosis s/p valvuloplasty
   in [**11-3**]. She was initially on the CCU service early in her
   hospitalization in the setting of flash pulmonary edema when her lasix
   were held. Now, she is intubated in the ICU. Continues to be severely
   fluid overloaded and oliguric, positive ~30L Los. She does not respond
   well to lasix/diuril/bumex but is also not a candidate for HD.
   - Continue bumex and metolazone
   - No further escalations
   # Respiratory Failure and Intubation
   - Preserve for now given mental status and edema
   # Atrial Fibrillation
   Pt has good control of HR on beta blockade and digoxin. Coumadin was
   being held before for trach/PEG. Now, holding coumading in case pt
   undergoes valvuloplasty.
   - Continue metoprolol tartrate 25 mg TID
   - Continue digoxin 0.0625 mg daily
   - DC labs
   - DC IV heparin given inconsistent with goals of care
   # Acute Renal Failure: Creatinine 3.8 today. Per previous notes, is ATN
   - No new interventions
   # Coronary Artery Disease: Pt is s/p CABG [**97**]/[**2188**].
   - Continue metoprolol as above
   - Continue aspirin 81 mg daily, atorvastatin 40 mg daily
   # Respiratory Failure: Now, s/p trach.
   - Trach in place
   - Continue albuterol/atrovent PRN
   # Pressor Requirement: Pt weaned off of pressors.
   # Hypothyroidism:
   - continue Synthroid 75 mcg daily
   # Fevers: Afebrile for several days now. Per notes, pt completed
   vanc/cefepime 7 day course for pneumonia as well as 3 days course of
   abx for positive UA.
   - Tylenol PRN fever
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2196-2-24**] 01:56 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI focus on comfort
   Disposition: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2196-02-28 07:14:00 Physician Resident Progress Note
Chief Complaint: Critical AS
   24 Hour Events:
   [**2-27**]:
   - met w/ family, who still hope she might wake up
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Penicillins
   Rash;
   Erythromycin Base
   Rash;
   Motrin (Oral) (Ibuprofen)
   Unknown; sores
   Ampicillin
   Unknown;
   Lactose
   Unknown; Abdomi
   Latex
   Rash;
   Adaptic (Topical) (Non-Adherent Bandage)
   Rash;
   Amiodarone
   Hepatic toxicit
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Dilantin - [**2196-2-27**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-2-28**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   HR: 87 (78 - 94) bpm
   BP: 116/52(76) {87/45(60) - 122/59(82)} mmHg
   RR: 16 (11 - 33) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 108.1 kg (admission): 80.1 kg
   Height: 66 Inch
             Total In:
                                                                  1,455 mL
                                                                    232 mL
   PO:
             TF:
                                                                    844 mL
                                                                    160 mL
   IVF:
                                                                    341 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    529 mL
                                                                     20 mL
   Urine:
                                                                    129 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    926 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 400 (400 - 400) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 102
   PIP: 22 cmH2O
   Plateau: 25 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   387 K/uL
   7.6 g/dL
   125 mg/dL
   3.8 mg/dL
   17 mEq/L
   4.7 mEq/L
   129 mg/dL
   102 mEq/L
   134 mEq/L
   24.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2196-2-22**]  05:08 AM
                             [**2196-2-22**]  09:16 PM
                             [**2196-2-23**]  04:32 AM
                             [**2196-2-23**]  08:40 AM
                             [**2196-2-23**]  06:02 PM
                             [**2196-2-24**]  04:16 AM
                             [**2196-2-24**]  01:22 PM
                             [**2196-2-24**]  05:00 PM
                             [**2196-2-25**]  04:05 AM
                             [**2196-2-25**]  04:23 AM
   WBC
   7.1
   7.6
   8.5
   Hct
   25.5
   25.4
   24.8
   Plt
   381
   357
   387
   Cr
   3.7
   3.8
   3.8
   3.8
   TCO2
   20
   20
   21
   21
   20
   20
   Glucose
   127
   122
   119
   124
   125
   Other labs: PT / PTT / INR:13.2/64.3/1.1, CK / CKMB /
   Troponin-T:9/2/0.03, ALT / AST:[**4-22**], Alk Phos / T Bili:60/0.2, Amylase
   / Lipase:/47, Differential-Neuts:75.9 %, Lymph:13.5 %, Mono:4.8 %,
   Eos:5.7 %, Fibrinogen:499 mg/dL, Lactic Acid:0.8 mmol/L, Albumin:2.7
   g/dL, LDH:202 IU/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.5 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 IMPAIRED SKIN INTEGRITY
 AORTIC STENOSIS
 SEIZURE, WITHOUT STATUS EPILEPTICUS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2196-2-4**] 04:39 PM
   Multi Lumen - [**2196-2-9**] 01:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: